US07989454B2
4-(2-(2-Carboxy-ethyl)-3-{6-[3-(piperazine-1-carbonyl)-5-thiophen-3-yl-phenoxy]-hexyl}-phenoxy)-butyric acid
To a solution of 3-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-5-thiophen-3-yl-benzoic acid (130 mg, 0.21 mmol), PyBroP (263 mg, 0.63 mmol) and diisopropylethylamine (0.11 mL, 0.63 mmol) in CH2Cl2 (4 mL)/DMF (1 mL) was added piperazine-1-carboxylic acid tert-butyl ester (63 mg, 0.63 mmol). The reaction mixture was stirred at room temperature for 4 h. The reaction mixture was diluted with ethyl acetate and washed with brine. The organic extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The total amount of the product obtained from the previous step was dissolved in ethanol (5 mL) and 1 M NaOH solution was added (2 mL) and the reaction mixture stirred for 3 h. Then the reaction mixture was diluted with ethyl acetate, washed with 10% aq. HCl and brine. The organic extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude oil was dissolved in 5 mL CH2Cl2 and 5 mL of TFA was added. The reaction mixture was stirred for 1 h and the solvents were evaporated. The crude oil was purified by preparative HPLC using acetonitrile/water gradient to afford the title compound.

reactant | 3-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-5-thiophen-3-yl-benzoic acid | 0.21 mmol, 130 mg | C(C)OC(=O)CCC1=C(C=CC=C1OCCCC(=O)OCC)CCCCCCOC=1C=C(C(=O)O)C=C(C1)C1=CSC=C1 | C34H42O8S
reactant | PyBroP | 0.63 mmol, 263 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.63 mmol, 0.11 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | piperazine-1-carboxylic acid tert-butyl ester | 0.63 mmol, 63 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(2-(2-Carboxy-ethyl)-3-{6-[3-(piperazine-1-carbonyl)-5-thiophen-3-yl-phenoxy]-hexyl}-phenoxy)-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC1=CC(=CC(=C1)C1=CSC=C1)C(=O)N1CCNCC1 | C34H42N2O7S
